datasets/10k_Mayr_OG.csv
SMILES Labelled
C[S+:61](C)([CH2-:10])=[O:62].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[S+:61](C)([CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:62] 10=20
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[N-:10]=[C:61]=[S:62]>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[N:10]=[C:61]=[S:62])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>FC(F)(F)[C:62]1=[C:61]([O:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:72]=[CH:73][CH:64]=[CH:63]1 10=20
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1[C:71](=[O:72])[N-:10][C:61](=[O:62])[O:82]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([N:10]1[C:61](=[O:62])[O:82]C[C:71]1=[O:72])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C(C[N+:61]#[C-:10])C=C1.C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1>>C1=CC=C(C[N+:61]#[C:10][C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)C=C1 10=20
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([C:20]([O-:21])=[N:31]C1=CC=CC=C1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC[O:50][C:22](=[CH:21][CH:20]([CH:10](C)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10](C)[C:61](=[O:62])[O:92]CC)=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:82][C:71]([C:10](C)([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].FC(F)(F)[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([C:10]1(CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]1=[O:92])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[O-:12])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([CH:20]2[C:21]3=[C:22](C=CC=C3)[N:23](C)[C:32]3=[C:31]2C=CC=C3)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
